US04783514
1-Cyanato-4-Acetamidobenzocyclobutane Monomer
About 4 g (0.02 moles) of 4-amino-1-cyanobenzocyclobutane is placed in a 100 ml flask equipped with an addition funnel, thermometer and nitrogen inlet. Additionally, 3.3 g (0.03 moles) of triethylamine in 60 ml of methylene chloride is added. A solution of acetic anhydride, 3.4 g (0.03 moles) in 5 ml of methylene chloride is added dropwise while keeping the temperature at below 5° C. Once addition is completed, the reaction is allowed to warm to room temperature overnight. The reaction mixture is added to 400 ml of water and stirred with magnetic stirrer and 50 ml of methylene chloride is added to dissolve the gummy solid. The methylene chloride layer is extracted and washed with 200 ml saturated sodium carbonate, 200 ml of water, 200 ml of 10 percent hydrochloric acid and then washed twice with 300 ml of water. The solution is dried over magnesium sulfate, filtered and the solvent is evaporated to yield an off-white solid. The solid is dissolved in a 70:30 volume percent mixture of toluene and ethanol and the product is recrystallized and recovered. The monomer has a melting point of between 163° and 168° C.

reactant | 4-amino-1-cyanobenzocyclobutane | 0.02 moles, 4 g | NC1=CC2=C(C(C2)C#N)C=C1 | C9H8N2
reactant | triethylamine | 0.03 moles, 3.3 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 400 ml | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyanato-4-Acetamidobenzocyclobutane | O(C#N)C1CC2=C1C=CC(=C2)NC(C)=O | C11H10N2O2
